US04824951
2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid methyl ester
A solution of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.1 g, 0.1011 mole), methanol (100 ml) and concentrated sulfuric acid (3 ml) was refluxed overnight under a Dean-Stark trap. Another 2 ml of concentrated sulfuric acid and methanol (50 ml) was added and reflux continued for 12 hr. The methanol was evaporated, water (50 ml) was added, and sodium bicarbonate (solid) added until basic. The mixture was extracted with ethyl acetate (3×25 ml). The combined ethyl acetate extracts were washed with water (25 ml), dried over sodium sulfate, and concentrated in vacuo. The residue (2.5 g) was combined with a sample obtained previously and recrystallized from isopropyl ether-isopropyl alcohol to give 3.0 g (56%) of white needles, mp 198°-200° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.1011 mole, 3.1 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 100 ml | CO | CH4O
product | 2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid methyl ester | 3.0 g, 56% | COC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)=O | C15H12ClN3O2
